US05959107
4-Chloro-5-(5-isoquinolylsulfanyl)-2-nitroaniline 1.78 g (5.4 mmol) was dissolved in concentrated hydrochloric acid 30 ml, stannous chloride dihydrate 4.30 g (19.1 mmol) was added, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water, 50% sodium hydroxide was added to alkalize the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and with saturated sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was recrystallized from ethyl acetate-n-hexane to give 4-chloro-5-(5-isoquinolylsulfanyl)-1,2-benzenediamine 1.45 g (89.5%).

reactant | 4-Chloro-5-(5-isoquinolylsulfanyl)-2-nitroaniline | 5.4 mmol, 1.78 g | ClC1=CC(=C(N)C=C1SC1=C2C=CN=CC2=CC=C1)[N+](=O)[O-] | C15H10ClN3O2S
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 4-chloro-5-(5-isoquinolylsulfanyl)-1,2-benzenediamine | 1.45 g, 89.5% | ClC=1C=C(C(=CC1SC1=C2C=CN=CC2=CC=C1)N)N | C15H12ClN3S
